US05202407
A. Preparation of ethyltri-m-tolyl phosphonium iodide catalyst
Into a 50 milliliter glass reactor equipped with a thermometer connected to a temperature controller, a heating mantle, a condenser and a magnetic stirring bar, is charged 5.49 gms (0.0181 mole) of tri-m-tolyl phosphine and 25 gms of toluene. The slurry is heated to 40° C., then 3.38 gms (0.0217 mole) of ethyl iodide is added. This reaction mass is heated to 40° C. and maintained for 16 hours, then heated to 70° C. and maintained for 4 hours, then cooled to 30° C. and the resulting phosphonium salt collected by filtration. After vacuum drying, there is obtained 5.8 gms of catalyst which has a melting point of >250° C. and a chemical shift of 25.7 ppm (phosphoric acid reference).

reactant | tri-m-tolyl phosphine | 0.0181 mole, 5.49 gms | C1(=CC(=CC=C1)P(C=1C=C(C=CC1)C)C=1C=C(C=CC1)C)C | C21H21P
reactant | ethyl iodide | 0.0217 mole, 3.38 gms | C(C)I | C2H5I
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
solvent | toluene | 25 gms | C1(=CC=CC=C1)C | C7H8
product | ethyltri-m-tolyl phosphonium iodide | [I-].C(C)[P+](C=1C=C(C=CC1)C)(C=1C=C(C=CC1)C)C=1C=C(C=CC1)C | InChI=1S/C23H26P.HI/c1-5-24(21-12-6-9-18(2)15-21,22-13-7-10-19(3)16-22)23-14-8-11-20(4)17-23;/h6-17H,5H2,1-4H3;1H/q+1;/p-1
